US06635640B2
2-Methyl-4-[3-(4-methylpiperazin-1-yl)propyl]-5-(2-oxo-4-thiazol-2-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester
4-Thiazol-2-yl-1,3-dihydroindol-2-one (54 mg, 0.25 mmol) was condensed with 5-formyl-2-methyl-4-[3-(4-methylpiperazin-1-yl)propyl]-1H-pyrrole-3-carboxylic acid ethyl ester (88 mg, 0.275 mmol) to give the title compound.

reactant | 4-Thiazol-2-yl-1,3-dihydroindol-2-one | 0.25 mmol, 54 mg | S1C(=NC=C1)C1=C2CC(NC2=CC=C1)=O | C11H8N2OS
reactant | 5-formyl-2-methyl-4-[3-(4-methylpiperazin-1-yl)propyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 0.275 mmol, 88 mg | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=O)C | C17H27N3O3
product | 2-Methyl-4-[3-(4-methylpiperazin-1-yl)propyl]-5-(2-oxo-4-thiazol-2-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C=1SC=CN1)=O)C | C28H33N5O3S
